US07625903B2
Ethyl 2-[(5-fluoro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate
Ethyl 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]benzoate (1.0 g, 3.4 mmol), 3-(4-methyl-1-piperazinyl)aniline (0.65 g, 3.4 mmol), ethanol (45 mL) and 6N HCl (1.5 mL, 8.8 mmol) were heated with stirring in a reaction vessel, which was sealed and heated at 95° C. for 24 h. The reaction mixture was cooled to room temperature, poured into water, extracted with ethyl acetate and neutralized to pH 7 by the slow addition of 6N NaOH. The resulting precipitate was collected on a sintered glass funnel and washed with water and ethyl ether to afford the title compound as a tan solid; yield 1.0 g (65%). MS: M(C24H27FN6O2)=450.52 (M+H)+=451.2.

reactant | Ethyl 2-[(2-chloro-5-fluoro-4-pyrimidinyl)amino]benzoate | 3.4 mmol, 1.0 g | ClC1=NC=C(C(=N1)NC1=C(C(=O)OCC)C=CC=C1)F | C13H11ClFN3O2
reactant | 3-(4-methyl-1-piperazinyl)aniline | 3.4 mmol, 0.65 g | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | ethanol | 45 mL | C(C)O | C2H6O
reactant | HCl | 8.8 mmol, 6N, 1.5 mL | Cl | ClH
solvent | water | O | H2O
product | Ethyl 2-[(5-fluoro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)OCC)C=CC=C1 | C24H27FN6O2
